* D:\School\tud\tn\def\opdrachten-DEF-D\FysiekeOntwerpopdrachten\2OntwerpEenSensorCondensator\LTSpiceTemplateCapacitor.asc
* Generated by LTspice 26.0.1 for Windows.
C1 Vout Vin 2317p
R1 Vout 0 1k
V2 N001 0 SINE(0 8 100k)
R2 N001 Vin 50
.tran 0 50u 0 10n
* Signaal\nGenerator
* Oscilloscoop \n(met shunt weerstand)
* jouw\ncondensator
* voor LTI Spice\nberekening instructie
.backanno
.end
